US06825353B2
3-[1-(tert-Butoxycarbonyl)amino-1-cyclopropyl]methyl-1-[1-(R)-phenylethyl]pyrrolidine
Cyclopropyl[1-[1-(R)-phenylethyl]pyrrolidin-3-yl]ketone (1.563 g, 7.793 mmol) was dissolved in anhydrous methanol (25 ml). To this were added ammonium acetate (5.236 g, 67.93 mmol), sodium cyanoborohydride (435.2 mg, 6.925 mmol) and Molecular Sieves 4A powder (1.86 g), and the mixture was stirred at room temperature for 16 hours under a stream of nitrogen. The reaction solution was filtered through celite and then the solvent was evaporated under a reduced pressure. The residue was dissolved in dichloromethane (100 ml), washed with saturated sodium bicarbonate aqueous solution (50 ml) and saturated brine (50 ml) in that order, and then dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under a reduced pressure. The thus obtained residue was dissolved in dry dichloromethane (25 ml) to which, under ice-cooling, was subsequently added dropwise dichloromethane (5 ml) solution of di-tert-butyl dicarbonate (2.225 g, 10.19 mmol). The reaction solution was stirred at room temperature for 2 hours and then concentrated under a reduced pressure. The thus obtained residue was subjected to a flash silica gel chromatography, and 1.299 g (55.5%) of the title compound was obtained from an eluate of chloroform:methanol=10:1 as a colorless oil component.

reactant | Cyclopropyl[1-[1-(R)-phenylethyl]pyrrolidin-3-yl]ketone | 7.793 mmol, 1.563 g | C1(CC1)C(=O)C1CN(CC1)[C@H](C)C1=CC=CC=C1 | C16H21NO
reactant | ammonium acetate | 67.93 mmol, 5.236 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 6.925 mmol, 435.2 mg | C(#N)[BH3-].[Na+]
reactant | di-tert-butyl dicarbonate | 10.19 mmol, 2.225 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 25 ml | CO | CH4O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-[1-(tert-Butoxycarbonyl)amino-1-cyclopropyl]methyl-1-[1-(R)-phenylethyl]pyrrolidine | 1.299 g, 55.5% | C(C)(C)(C)OC(=O)NC1(CC1)CC1CN(CC1)[C@H](C)C1=CC=CC=C1 | C21H32N2O2
